US08202885B2
To a solution of 0.25 g of methylcarbamoylmethyl-triphenyl-phosphonium chloride (J. Med. Chem. 2003, 46, 399) in 1 ml of THF was added 0.88 ml of n-BuLi (1.6M) at −60° C. After stirring for 1 h at −60° C. a solution of 0.1 g of furo[2,3-b]pyridine-5-carbaldehyde in 1 ml of THF was added and the resulting reaction mixture was stirred for 5 h reaching slowly rt. The reaction mixture was poured over ice. The organic phase was washed with brine, dried over MgSO4 and concentrated in vacuo. Purification by CC using EtOAc as eluant yielded 0.13 g of 3-furo[2,3-b]pyridin-5-yl-N-methyl-acrylamide as a mixture of E/Z isomers.

reactant | methylcarbamoylmethyl-triphenyl-phosphonium chloride | 0.25 g | [Cl-].CNC(=O)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | n-BuLi | 1.6M, 0.88 ml | [Li]CCCC
reactant | furo[2,3-b]pyridine-5-carbaldehyde | 0.1 g | O1C=CC=2C1=NC=C(C2)C=O | C8H5NO2
solvent | THF | 1 ml | C1CCOC1 | C4H8O
solvent | THF | 1 ml | C1CCOC1 | C4H8O
product | 3-furo[2,3-b]pyridin-5-yl-N-methyl-acrylamide | 0.13 g | O1C=CC=2C1=NC=C(C2)C=CC(=O)NC | C11H10N2O2
